US07692005B2
The (4-Nitro-benzyl)-(2-pyrrolidin-1-yl-ethyl)-amine (0.503 g, 2.02 mmol) was dissolved in EtOH (10 mL) under Ar(g), and hydrazine hydrate (0.439 mL, 14.14 mmol) was added. Subsequently, excess RaNi was added in dropwise until the solution stopped bubbling. The suspension was then allowed to stir for an additional 45 minutes at 65° C. The suspension was cooled to r.t. and then filtered over celite. The celite was washed with MeOH and the combined organic solutions were then concentrated in vacuo affording a pure 4-[(2-Pyrrolidin-1-yl-ethylamino)-methyl]-phenylamine as a light purple oil (0.331 g, 1.52 mmol, 75% yield).

reactant | (4-Nitro-benzyl)-(2-pyrrolidin-1-yl-ethyl)-amine | 2.02 mmol, 0.503 g | [N+](=O)([O-])C1=CC=C(CNCCN2CCCC2)C=C1 | C13H19N3O2
reactant | hydrazine hydrate | 14.14 mmol, 0.439 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | RaNi | [Ni] | Ni
product | 4-[(2-Pyrrolidin-1-yl-ethylamino)-methyl]-phenylamine | 1.52 mmol, 0.331 g, 75% yield | N1(CCCC1)CCNCC1=CC=C(C=C1)N | C13H21N3
